US07932247B2
To a 250 mL shaker vessel was added 2,6-dimethoxy-4-polystyrenebenzyloxy-benzaldehyde (DMHB resin) (10 g, 1.5 mmol/g, 15 mmol) and 150 mL of 1-methyl-2-pyrrolidinone (NMP). 3-Bromo-benzylamine HCl salt (17 g, 75 mmol), diisopropylethylamine (DIEA) (13 mL, 75 mmol), acetic acid (HOAc) (15 mL), and Na(OAc)3BH (19.1 g, 90 mmol) were then added. The resulting mixture was shaken at rt for overnight, and was then washed with NMP (150 mL×2), dichloromethane (DCM) (150 mL×2), MeOH (150 mL×2) and DCM (150 mL×2). The resulting resin was dried in vacuum oven at 35° C. for overnight to yield DMHB resin-bound 3-bromo-benzylamine (15 mmol).

reactant | 1-methyl-2-pyrrolidinone | 150 mL | CN1C(CCC1)=O | C5H9NO
reactant | 3-Bromo-benzylamine HCl salt | 75 mmol, 17 g | Cl.BrC=1C=C(CN)C=CC1
reactant | diisopropylethylamine | 75 mmol, 13 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Na(OAc)3BH | 90 mmol, 19.1 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | DMHB | 15 mmol | CC(C(C)(C)C(=O)O)O | C6H12O3
